2162-04-23 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2162-4-22**] 11:08 AM
   tunnelled hd line placed ~2 weeks ago per pt
   - nitro gtt discontinued after dialysis
   - no further complaint
   Allergies:
   Colchicine
   Unknown;
   Atorvastatin
   Unknown;
   Cinacalcet
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2162-4-22**] 08:36 PM
   Heparin Sodium (Prophylaxis) - [**2162-4-23**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-4-23**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**64**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 74 (64 - 90) bpm
   BP: 140/78(94) {117/46(65) - 217/134(147)} mmHg
   RR: 16 (14 - 33) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                                                                     99 mL
                  PO:
                  TF:
   IVF:
                                                                     99 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,401 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 88%
   ABG: 7.41/55/125/29/8
   Physical Examination
   GENERAL:  NAD, AOx3
   HEENT:  MMM, OP clear, JVP 10cm, distended EJ
   CARDIAC:  RRR, 3/6 SEM at the USB, high pitched and mid-peaking, good
   carotid upstroke and no radiation, [**3-20**] HSM at the apex- soft.
   LUNG:  poor respiratory effort, rales [**2-13**] way up bilaterally, no
   wheezes
   ABDOMEN: soft, NT, ND, no masses or orgnaomegaly
   EXT:  WWP, no c/c/e
   NEURO:  Grossly normal, AOx3
   SKIN: no rashes
   Labs / Radiology
   189 K/uL
   10.8 g/dL
   154 mg/dL
   2.9 mg/dL
   29 mEq/L
   3.6 mEq/L
   15 mg/dL
   97 mEq/L
   135 mEq/L
   35.6 %
   7.6 K/uL
        [image002.jpg]
                             [**2162-4-22**]  04:07 PM
                             [**2162-4-23**]  12:37 AM
                             [**2162-4-23**]  05:21 AM
   WBC
   7.6
   Hct
   35.6
   Plt
   189
   Cr
   2.9
   TropT
   0.14
   0.14
   TCO2
   36
   Glucose
   154
   Other labs: CK / CKMB / Troponin-T:103/3/0.14, Differential-Neuts:59.7
   %, Lymph:15.8 %, Mono:4.5 %, Eos:20.0 %, Ca++:9.8 mg/dL, Mg++:2.4
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   75 yoF w/ a h/o HTN, DM, ESRD on HD (T,T,Sa) presents with acute onset
   SOB.
   .
   # SOB/Hypoxia: The patient had acute onset shortness of breath. EF is
   30-40 and also has moderate LVH She improved with positive pressure and
   a nitro gtt.  She is very hypertensive and the likely cause is fluid
   overload.  Etiology of heart failure is presumed to be hypertensive
   heart disease however the patient has never had a cardiac cath, and her
   hypokinesis is global.
   -she will require ugent dialysis, renal has been consulted.
   -continue nitro gtt
   -f/u final CXR read
   -add on cardiac enzymes, and repeat at 3 p.m. and 11 p.m.
   -repeat EKG as ER EKG not transferred to ICU.
   .
   #  Eospinophilia: Has had this in the past without clear explanation.
   Has had negative stool O&P, in addition has had a normal cortisol in
   the past and there has been a thought of possible sarcoid but this has
   not been further evaluated.
   -trend for now, if SOB does not improve with dialysis will obtain
   repeat CT of chest and consider treating sarcoid (possible evidence on
   [**8-20**] CTA chest but not biopsy proven)
   - stool o & p
   .
   # HTN: continue irbesartan and carvedilol at current doses, will
   titrate regimen if necessary post dialysis.
   .
   # Hypercholesterolemia: continue simvastatin.
   .
   # DM: NPH qam and ISS at home doses.
   .
   # h/o CVA: continue ASA 81mg daily and plavix 75mg daily
   .
   # Sleep Apnea: CPAP at night.
   .
   # FEN: IVFs / replete lytes prn / NPO for now given recent BiPAP / home
   bowel regimen
   # PPX: home H2 blocker, heparin SQ
   # ACCESS: PIV
   # CODE:  FULL CODE (confirmed)
   # CONTACT:  Daughter.
   # ICU CONSENT:
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2162-4-22**] 11:08 AM
   20 Gauge - [**2162-4-23**] 01:08 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2162-04-23 10:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 yo women with hypertensive emergency, pulmonary edema.  Much better
   today after HD yesterday.
   24 Hour Events:
 DIALYSIS CATHETER - START [**2162-4-22**] 11:08 AM
   tunnelled hd line placed ~2 weeks ago per pt
   Allergies:
   Colchicine
   Unknown;
   Atorvastatin
   Unknown;
   Cinacalcet
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2162-4-23**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2162-4-23**] 08:45 AM
   Other medications:
   losartan
   zantac
   plavix
   SSI
   ASA
   simvastatin
   colace
   allopurinol
   NTG drip
   carvedilol
   hep s/q
   senna
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2162-4-23**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**64**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 89 (60 - 90) bpm
   BP: 143/66(85) {117/46(65) - 217/134(147)} mmHg
   RR: 22 (14 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                                                                     99 mL
                                                                    320 mL
   PO:
                  320 mL
   TF:
   IVF:
                                                                     99 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,401 mL
                                                                    320 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.41/55/125/29/8
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   189 K/uL
   154 mg/dL
   2.9 mg/dL
   29 mEq/L
   3.6 mEq/L
   15 mg/dL
   97 mEq/L
   135 mEq/L
   35.6 %
   7.6 K/uL
        [image002.jpg]
                             [**2162-4-22**]  04:07 PM
                             [**2162-4-23**]  12:37 AM
                             [**2162-4-23**]  05:21 AM
   WBC
   7.6
   Hct
   35.6
   Plt
   189
   Cr
   2.9
   TropT
   0.14
   0.14
   TCO2
   36
   Glucose
   154
   Other labs: CK / CKMB / Troponin-T:103/3/0.14, Differential-Neuts:59.7
   %, Lymph:15.8 %, Mono:4.5 %, Eos:20.0 %, Ca++:9.8 mg/dL, Mg++:2.4
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), DIASTOLIC, ACUTE/HTN/pulmonary edema:  Much
   improved today.
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   Eosinophilia:  unclear cause.  can check stool a O+P.  Doubt
   eosinophilic lung disease.
   OSA:  CPAP
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2162-4-22**] 11:08 AM
   20 Gauge - [**2162-4-23**] 01:08 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2162-04-24 08:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - doing well, getting UF today, negative 2 liters
   - c/o to floor
   Allergies:
   Colchicine
   Unknown;
   Atorvastatin
   Unknown;
   Cinacalcet
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2162-4-23**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2162-4-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-4-24**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**64**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 65 (61 - 89) bpm
   BP: 155/58(84) {101/36(58) - 162/70(90)} mmHg
   RR: 19 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54 kg (admission): 56.5 kg
   Height: 66 Inch
                  Total In:
                                                                    690 mL
                                                                     30 mL
   PO:
                                                                    690 mL
                                                                     30 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    690 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   137 K/uL
   9.4 g/dL
   162 mg/dL
   4.5 mg/dL
   28 mEq/L
   4.7 mEq/L
   35 mg/dL
   100 mEq/L
   138 mEq/L
   30.7 %
   7.4 K/uL
        [image002.jpg]
                             [**2162-4-22**]  04:07 PM
                             [**2162-4-23**]  12:37 AM
                             [**2162-4-23**]  05:21 AM
                             [**2162-4-24**]  03:39 AM
   WBC
   7.6
   7.4
   Hct
   35.6
   30.7
   Plt
   189
   137
   Cr
   2.9
   4.5
   TropT
   0.14
   0.14
   TCO2
   36
   Glucose
   154
   162
   Other labs: PT / PTT / INR:12.4/27.4/1.0, CK / CKMB /
   Troponin-T:103/3/0.14, Differential-Neuts:59.7 %, Lymph:15.8 %,
   Mono:4.5 %, Eos:20.0 %, Ca++:9.4 mg/dL, Mg++:2.5 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   75 yoF w/ a h/o HTN, DM, ESRD on HD (T,T,Sa) presents with acute onset
   SOB.
   # SOB/Hypoxia: The patient had acute onset shortness of breath. EF is
   30-40 and also has moderate LVH She improved with positive pressure and
   a nitro gtt.  She is very hypertensive and the likely cause is fluid
   overload.  Etiology of heart failure is presumed to be hypertensive
   heart disease however the patient has never had a cardiac cath, and her
   hypokinesis is global.
   -she will require ugent dialysis, renal has been consulted.
   -continue nitro gtt
   -f/u final CXR read
   -add on cardiac enzymes, and repeat at 3 p.m. and 11 p.m.
   -repeat EKG as ER EKG not transferred to ICU.
   #  Eospinophilia: Has had this in the past without clear explanation.
   Has had negative stool O&P, in addition has had a normal cortisol in
   the past and there has been a thought of possible sarcoid but this has
   not been further evaluated.
   -trend for now, if SOB does not improve with dialysis will obtain
   repeat CT of chest and consider treating sarcoid (possible evidence on
   [**8-20**] CTA chest but not biopsy proven)
   - stool o & p
   # HTN: continue irbesartan and carvedilol at current doses, will
   titrate regimen if necessary post dialysis.
   # Hypercholesterolemia: continue simvastatin.
   # DM: NPH qam and ISS at home doses.
   # h/o CVA: continue ASA 81mg daily and plavix 75mg daily
   # Sleep Apnea: CPAP at night.
   # FEN: IVFs / replete lytes prn / NPO for now given recent BiPAP / home
   bowel regimen
   # PPX: home H2 blocker, heparin SQ
   # ACCESS: PIV
   # CODE:  FULL CODE (confirmed)
   # CONTACT:  Daughter.
   # ICU CONSENT:
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2162-4-22**] 11:08 AM
   20 Gauge - [**2162-4-23**] 01:08 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2162-04-25 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - HD
   - trying to d/c from ICU
   - NH could not take back after 6 when back from HD, needs to go
   tomorrow prior to 10 am
   Allergies:
   Colchicine
   Unknown;
   Atorvastatin
   Unknown;
   Cinacalcet
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2162-4-25**] 07:39 AM
   Heparin Sodium (Prophylaxis) - [**2162-4-25**] 07:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-4-25**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**64**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 64 (64 - 78) bpm
   BP: 131/72(83) {79/21(47) - 164/77(88)} mmHg
   RR: 16 (4 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.6 kg (admission): 56.5 kg
   Height: 66 Inch
                  Total In:
                                                                    800 mL
                                                                     30 mL
   PO:
                                                                    800 mL
                                                                     30 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,200 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   GENERAL:  NAD, AOx3
   HEENT:  MMM, OP clear, JVP 10cm, distended EJ
   CARDIAC:  RRR, 3/6 SEM at the USB, high pitched and mid-peaking, good
   carotid upstroke and no radiation, [**3-20**] HSM at the apex- soft.
   LUNG:  poor respiratory effort, rales [**2-13**] way up bilaterally, no
   wheezes
   ABDOMEN: soft, NT, ND, no masses or orgnaomegaly
   EXT:  WWP, no c/c/e
   NEURO:  Grossly normal, AOx3
   SKIN: no rashes
   Labs / Radiology
   137 K/uL
   9.4 g/dL
   162 mg/dL
   4.5 mg/dL
   28 mEq/L
   4.7 mEq/L
   35 mg/dL
   100 mEq/L
   138 mEq/L
   30.7 %
   7.4 K/uL
        [image002.jpg]
                             [**2162-4-22**]  04:07 PM
                             [**2162-4-23**]  12:37 AM
                             [**2162-4-23**]  05:21 AM
                             [**2162-4-24**]  03:39 AM
   WBC
   7.6
   7.4
   Hct
   35.6
   30.7
   Plt
   189
   137
   Cr
   2.9
   4.5
   TropT
   0.14
   0.14
   TCO2
   36
   Glucose
   154
   162
   Other labs: PT / PTT / INR:12.4/27.4/1.0, CK / CKMB /
   Troponin-T:103/3/0.14, Differential-Neuts:59.7 %, Lymph:15.8 %,
   Mono:4.5 %, Eos:20.0 %, Ca++:9.4 mg/dL, Mg++:2.5 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   75 yoF w/ a h/o HTN, DM, ESRD on HD (T,T,Sa) presents with acute onset
   SOB.
   # SOB/Hypoxia:  Much improved with HD.  Attempt to obtain dry weight.
   BP now normal to stage I hypertension.
   -callout to floor
   #  Eospinophilia: continue to trend.  Send stool O&P.  Given history of
   sarcoid could be a flare but no symptoms to suggest this, SOB seems
   clearly related to volume overload.
   # HTN: continue irbesartan and carvedilol at current doses
   # Hypercholesterolemia: continue simvastatin.
   # DM: NPH qam and ISS at home doses.
   -BG 98-281
   # h/o CVA: continue ASA 81mg daily and plavix 75mg daily
   # Sleep Apnea: CPAP at night.
   # FEN: IVFs / replete lytes prn / NPO for now given recent BiPAP / home
   bowel regimen
   # PPX: home H2 blocker, heparin SQ
   # ACCESS: PIV
   # CODE:  FULL CODE (confirmed)
   # CONTACT:  Daughter.
   # ICU CONSENT:
   # DISPO: callout to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2162-4-22**] 11:08 AM
   20 Gauge - [**2162-4-23**] 01:08 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: